US07220773B2
Preparation for methyl (3-iodophenoxy)acetate
3-Iodophenol (4.00 g, 18.2 mmol), ethyl bromoacetate (2.98 g, 18.2 mmol) and potassium carbonate (2.51 g, 18.2 mmol) were refluxed in acetone (40 ml) for 2 hours. The reaction mixtute was poured into water and extracted with ethyl acetate. The organic layer was dried, and filtered. The filtrate was concentrated and the residue was purified with silica gel chromatography to give the subject compound (5.30 g, 99%).

reactant | 3-Iodophenol | 18.2 mmol, 4.00 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | ethyl bromoacetate | 18.2 mmol, 2.98 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 18.2 mmol, 2.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | methyl (3-iodophenoxy)acetate | 5.30 g, 99% | IC=1C=C(OCC(=O)OC)C=CC1 | C9H9IO3
